US06919336B2
a) (5-Bromo-2-methoxy-phenyl)-(4-bromo-phenyl)-methanol
(5-Bromo-2-methoxy-phenyl)-(4-bromo-phenyl)-methanone (16.5 g; 44.6 mmol), R-(+)-BINAP (1.38 g; 2.23 mmol), Pd(OAc)2 (1.499 g; 6.69 mmol), PPh3 (3.03 g; 11.6 mmol), Cs2CO3 (29.1 g; 89.2 mmol) and 2,4-Difluoroaniline (6.8 ml; 66.9 mmol) are dissolved in dioxane (600 ml) and heated to 135° C. for 1.5 hours. The reaction mixture is cooled, filtered, evaporated and purified via chromatography (SiO2; acetone/hexanes 5:95>10:90) to yield the title product as yellow crystals (10.7 g; 57%).

reactant | (5-Bromo-2-methoxy-phenyl)-(4-bromo-phenyl)-methanone | 44.6 mmol, 16.5 g | BrC=1C=CC(=C(C1)C(=O)C1=CC=C(C=C1)Br)OC | C14H10Br2O2
reactant | PPh3 | 11.6 mmol, 3.03 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Cs2CO3 | 89.2 mmol, 29.1 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2,4-Difluoroaniline | 66.9 mmol, 6.8 ml | FC1=C(N)C=CC(=C1)F | C6H5F2N
solvent | dioxane | 600 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 6.69 mmol, 1.499 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (5-Bromo-2-methoxy-phenyl)-(4-bromo-phenyl)-methanol | 10.7 g, 57% | BrC=1C=CC(=C(C1)C(O)C1=CC=C(C=C1)Br)OC | C14H12Br2O2
